US08030489B2
To a mixture of 3-[(tert-butoxycarbonyl)(2-methoxyethyl)amino]benzoic acid (0.57 g) and ethyl acetate (10 ml) was added a 4 M hydrogen chloride/ethyl acetate solution (5.0 ml) under ice-cooling, followed by stirring at room temperature over one night. The solid precipitated was collected by filtration to obtain 3-[(2-methoxyethyl)amino]benzoic acid hydrochloride (0.38 g).

reactant | 3-[(tert-butoxycarbonyl)(2-methoxyethyl)amino]benzoic acid | 0.57 g | C(C)(C)(C)OC(=O)N(C=1C=C(C(=O)O)C=CC1)CCOC | C15H21NO5
reactant | hydrogen chloride ethyl acetate | 4 M, 5.0 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-[(2-methoxyethyl)amino]benzoic acid hydrochloride | 0.38 g | Cl.COCCNC=1C=C(C(=O)O)C=CC1 | InChI=1S/C10H13NO3.ClH/c1-14-6-5-11-9-4-2-3-8(7-9)10(12)13;/h2-4,7,11H,5-6H2,1H3,(H,12,13);1H
